US09062070B2
Step D: 5-(bromoacetyl)-4-fluoro-2-methoxybenzonitrile
To a 500 mL flask was added 5-bromo-4-fluoro-2-methoxybenzonitrile (4.00 g, 17.4 mmol), Bis(Triphenylphosphine)Palladium(II)Chloride (0.61 g, 0.87 mmol), tributyl(1-ethoxy-vinyl)tin (9.42 mL, 26.1 mmol) followed by addition of 1,4 dioxane (40 mL). The resulting mixture was stirred at 95° C. for 3 h; the flask was taken out of the oil bath and cooled to rt followed by treatment with a mixture of THF/H2O (50/25 mL) and placed in an ice bath. To the flask was added NBS (6.19 g, 34.8 mmol) in small portions; after stirred for 0.5 h at 0° C., LC indicated formation of the desired product. The reaction mixture was taken out of the ice bath and slowly warmed up to rt. The reaction mixture was extracted with EtOAc (3×100 mL), washed with brine and water, it was then dried (Na2SO4), filtered and concentrated to dryness followed by separation over silica gel with the solvent systems of hexanes/EtOAc (1/0.5) to give the desired product. LC/MS: [(M+2)]+=274.

reactant | 5-bromo-4-fluoro-2-methoxybenzonitrile | 17.4 mmol, 4.00 g | BrC=1C(=CC(=C(C#N)C1)OC)F | C8H5BrFNO
reactant | tributyl(1-ethoxy-vinyl)tin | 26.1 mmol, 9.42 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | 1,4 dioxane | 40 mL | O1CCOCC1 | C4H8O2
reactant | NBS | 34.8 mmol, 6.19 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
catalyst | Bis(Triphenylphosphine)Palladium(II)Chloride | 0.87 mmol, 0.61 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | THF H2O | 25 mL | C1CCOC1.O
product | 5-(bromoacetyl)-4-fluoro-2-methoxybenzonitrile | BrCC(=O)C=1C(=CC(=C(C#N)C1)OC)F | C10H7BrFNO2
